US09145438B2
Step 7: 1-(4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)propyl)urea
A mixture of 3-(3-(4-(tert-butyl)phenyl)ureido)propyl methanesulfonate (224 mg, 0.682 mmol), tetra-n-butylammonium iodide (252 mg, 0.682 mmol) and N,N-diisopropylethylamine (120 μL, 0.67 mmol) was treated with N-(2,4-dimethoxybenzyl)-7-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methylamino)methyl)tetrahydrofuro[3,4-d][1,3]-dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (320 mg, 0.68 mmol) in acetonitrile (7.8 mL, 150 mmol) and the solution was heated at 65° C. After 16.5 h at 65° C., HPLC indicated the reaction was about 78-85% complete. An additional 60 mg of mesylate (in 0.4 mL CH3CN) and 67 mg of TBAI were added and continued heating for 7 h. The reaction mixture was cooled to room temperature and concentrated. The crude residue was purified by flash chromatography (60 g silica gel, 3-7% 7N NH3 in CH3OH/CH2Cl2) to yield the product contaminated with TBAI. The material was dissolved in 20 mL 1/1 ethyl acetate/ethyl ether and washed with three 10 mL portions of H2O. The organic phase was dried over Na2SO4, filtered and concentrated to yield the title compound (295 mg, 62%) as a foam: MS (ESI+) for C38H51N7O6 m/z 702.2 (M+H)+: (ESI−) for C38H51N7O6 m/z 700.3 (M−H)−; HPLC purity 96% (ret. time, 3.69 min).

reactant | 3-(3-(4-(tert-butyl)phenyl)ureido)propyl methanesulfonate | 0.682 mmol, 224 mg | CS(=O)(=O)OCCCNC(=O)NC1=CC=C(C=C1)C(C)(C)C | C15H24N2O4S
reactant | N,N-diisopropylethylamine | 0.67 mmol, 120 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(2,4-dimethoxybenzyl)-7-((3aR,4R,6R,6aR)-2,2-dimethyl-6-((methylamino)methyl)tetrahydrofuro[3,4-d][1,3]-dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.68 mmol, 320 mg | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@H]2OC(O[C@H]23)(C)C)CNC)C=CC(=C1)OC | C24H31N5O5
reactant | acetonitrile | 150 mmol, 7.8 mL | C(C)#N | C2H3N
reactant | mesylate | 0.4 mL, 60 mg | S(C)(=O)(=O)[O-]
catalyst | tetra-n-butylammonium iodide | 0.682 mmol, 252 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | TBAI | 67 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
solvent | ethyl acetate ethyl ether | C(C)(=O)OCC.C(C)OCC
product | 1-(4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)propyl)urea | 295 mg, 62% | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)NCCCN(C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C38H51N7O6
